US06642389B2
In analogy to the procedure described in example 120 f], 4-hydroxy-2-methyl-benzaldehyde (for the preparation of 4-hydroxy-2-methyl-benzaldehyde see: H. H. Hodgson, T. A. Jenkinson, J. Chem. Soc. 1929, 469, 1639-1641) was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole (prepared from 4-isopropyl-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 21 a] and b]) in the presence of potassium carbonate to yield 4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-benzaldehyde. 4-[2-(4-Isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-benzaldehyde was reacted with (ethoxy-ethoxy-carbonyl-methyl)-triphenyl-phosphonium chloride [for the preparation of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride see: K. K. Bach, H. R. El-Seedi, H. M. Jensen, H. B. Nielsen, I. Thomson, K. B. G. Torssell, Tetrahedron 1994, 50, 7543-7556] in the presence of DBU in analogy to the procedure described in example 120 c] to give 2Z-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid ethyl ester, which was further saponified in analogy to the procedure described in example 120 f] to yield 2Z-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid as light green solid.

reactant | 4-hydroxy-2-methyl-benzaldehyde | OC1=CC(=C(C=O)C=C1)C | C8H8O2
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
reactant | 4-isopropyl-benzaldehyde | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-benzaldehyde | C(C)(C)C1=CC=C(C=C1)C=1OC(=C(N1)COC1=CC(=C(C=O)C=C1)C)C | C22H23NO3
